US07491729B2
B15) 1-(1-Phenyl-1H-tetrazol-5-yl)piperazine
Preparation took place by reacting 5-chloro-1-phenyl-1H-tetrazole with tert-butyl piperazine-1-carboxylate in DMF at 40° C.

reactant | 5-chloro-1-phenyl-1H-tetrazole | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(1-Phenyl-1H-tetrazol-5-yl)piperazine | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
